US04762949
(A) 6-guanidino-1-hexanamine (X)
To 2.3 g. of 1,6-diaminohexane dissolved in 50 ml. of H2O was added dropwise with vigorous stirring a solution of 2 g. of S-methylthiopseudourea.H2SO4 in 20 ml. of H2O. After the completion of addition, the stirring was continued for 15 hours, after which the precipitate (the diadduct) was filtered. The filtrate was concentrated to a viscous oil which upon the addition of 50 ml. of MeOH precipitated 718 mg. of white powder.

reactant | 1,6-diaminohexane | NCCCCCCN | C6H16N2
reactant | S-methylthiopseudourea | CSC(N)=N | C2H6N2S
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
solvent | H2O | O | H2O
product | 6-guanidino-1-hexanamine | N(C(=N)N)CCCCCCN | C7H18N4
